US07745447B2
Part B. 1-(5-Amino-1,3,4-thiadiazole-2-ylthio)propan-2-ol
To a mixture of 1-(5-amino-1,3,4-thiadiazol-2-ylthio)propan-2-one (700 mg, 3.7 mmol) in 8 mL of 1:1 MeOH/H2O at rt was added a solution of NaBH4 (159 mg, 4.2 mmol) in 1.5 mL of H2O dropwise over 10 min. The suspension was stirred at rt for 1 h and diluted with 0.6 mL of HOAc followed by 6 mL of H2O. The precipitate was filtered, washed with H2O and dried under vacuum to afford 0.608 g of the title compound (86%) as an off-white solid. 1H NMR (400 MHz, MeOH-d3) δ 1.25 (d, J=6.6 Hz, 3H), 3.06-3.21 (m, 2H), 3.90-4.04 (m, 1H). HPLC (Method #1) 0.710 min retention time, (90%). MS (ES): m/z 192 [M+H]+.

reactant | 1-(5-amino-1,3,4-thiadiazol-2-ylthio)propan-2-one | 3.7 mmol, 700 mg | NC1=NN=C(S1)SCC(C)=O | C5H7N3OS2
reactant | NaBH4 | 4.2 mmol, 159 mg | [BH4-].[Na+]
solvent | MeOH H2O | 8 mL | CO.O
solvent | H2O | 1.5 mL | O | H2O
solvent | HOAc | 0.6 mL | CC(=O)O | C2H4O2
solvent | H2O | 6 mL | O | H2O
product | 1-(5-Amino-1,3,4-thiadiazole-2-ylthio)propan-2-ol | 0.608 g, 86% | NC1=NN=C(S1)SCC(C)O | C5H9N3OS2
